US08236806B2
1-phenyl-4-(3-(1-phenyl-3-ethyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 123)
41 mg (80%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-3-ethyl-1H-pyrazol-5-yl)propanal (31 mg, 0.138 mmol), 1-phenylpiperazine (0.021 mL, 0.138 mmol), DIPEA (0.036 mL, 0.206 mmol) and NaBH(OAc)3 (88 mg, 0.414 mmol).

reactant | 3-(1-phenyl-3-ethyl-1H-pyrazol-5-yl)propanal | 0.138 mmol, 31 mg | C1(=CC=CC=C1)N1N=C(C=C1CCC=O)CC | C14H16N2O
reactant | 1-phenylpiperazine | 0.138 mmol, 0.021 mL | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DIPEA | 0.206 mmol, 0.036 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.414 mmol, 88 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-phenyl-4-(3-(1-phenyl-3-ethyl-1H-pyrazol-5-yl)propyl)piperazine | C1(=CC=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC=CC=C1)CC | C24H30N4
